US07915250B2
1-[1-({3,4-difluoro-2-[(2-fluoro-4-iodophenyl)amino]phenyl}-carbonyl)azetidin-3-yl]-N,N-dimethylpyrrolidin-3-amine.
The title compound was prepared by reacting 3,4-difluoro-2-[(2-fluoro-4-iodophenyl)amino]benzoic acid with N-methyl-N-(2-(pyridin-2-yl)ethyl)azetidin-3-amine. The azetidine intermediate was prepared using procedures similar to those described in Abdel-Magid, et. al., Tetrahedron Letters 1990, 31(39), 5595 starting with tert-butyl 3-oxoazetidine-1-carboxylate, which itself was prepared as described in Example 3. The title compound: 1H NMR (400 MHz, d6-DMSO): 8.56 (s, 1H), 7.58 (m, 1H), 7.38 (d, 1H), 7.31 (m, 1H), 7.16 (m, 1H), 6.67 (m, 1H), 4.16 (m, 1H), 3.97 (m, 2H), 3.77 (m, 1H), 3.26 (br s, 4H), 2.63 (m, 1H), 2.42 (br s, 6H), 1.99 (br s, 1H), 1.74 (br s, 1H). MS (EI) for C22H24F3IN4O: 545 (MH+).

reactant | 3,4-difluoro-2-[(2-fluoro-4-iodophenyl)amino]benzoic acid | FC=1C(=C(C(=O)O)C=CC1F)NC1=C(C=C(C=C1)I)F | C13H7F3INO2
reactant | N-methyl-N-(2-(pyridin-2-yl)ethyl)azetidin-3-amine | CN(C1CNC1)CCC1=NC=CC=C1 | C11H17N3
reactant | tert-butyl 3-oxoazetidine-1-carboxylate | O=C1CN(C1)C(=O)OC(C)(C)C | C8H13NO3
product | 1-[1-({3,4-difluoro-2-[(2-fluoro-4-iodophenyl)amino]phenyl}-carbonyl)azetidin-3-yl]-N,N-dimethylpyrrolidin-3-amine | FC=1C(=C(C=CC1F)C(=O)N1CC(C1)N1CC(CC1)N(C)C)NC1=C(C=C(C=C1)I)F | C22H24F3IN4O
